US04128659
The known compound 1-chloro-4-methoxynaphthalene is dissolved in 150 ml. of acetic acid and 150 ml. of 48 percent hydrobromic acid, and the mixture is heated at its reflux temperature for 2 hours. The mixture is diluted with 200 ml. of water and cooled to provide 1-chloro-4-hydroxynaphthalene as a crystalline solid.

reactant | 1-chloro-4-methoxynaphthalene | ClC1=CC=C(C2=CC=CC=C12)OC | C11H9ClO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 1-chloro-4-hydroxynaphthalene | ClC1=CC=C(C2=CC=CC=C12)O | C10H7ClO
